US03993656
Preparation of 2-amino-4,6-dimethylnicotinaldehyde
N1 -(2-amino-4,6-dimethylnicotinoyl)-N2 -benzenesulfonyl hydrazine isopropanolate (62.0 g., 0.163 mole) is divided into two portions. To each portion, ethylene glycol (300 ml.) is added and the mixture heated to 160° C. prior to the addition of anhydrous sodium carbonate (30 g.) in one portion with vigorous stirring. The mixture is allowed to cool and then is poured into water. The two runs are combined and the product isolated by extraction with chloroform. Following recrystallization from carbon tetrachloride the product melts at 152°-158° C. Further recrystallization from the same solvent raises the melting point to 162°-166° C.

reactant | N1 -(2-amino-4,6-dimethylnicotinoyl)-N2 -benzenesulfonyl hydrazine isopropanolate | 0.163 mole, 62.0 g | C(C)(C)[O-].NC1=C(C(=O)NNS(=O)(=O)C2=CC=CC=C2)C(=CC(=N1)C)C
reactant | ethylene glycol | 300 ml | C(CO)O | C2H6O2
reactant | sodium carbonate | 30 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-4,6-dimethylnicotinaldehyde | NC1=C(C=O)C(=CC(=N1)C)C | C8H10N2O
